* c:\users\hp\esim-workspace\multiplier\multiplier.cir

* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ multiply
* u6  a0 a1 b0 b1 net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ adc_bridge_4
* u7  net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ out1 out2 out3 out4 dac_bridge_4
r1  out1 gnd resistor
r2  out2 gnd resistor
r3  out3 gnd resistor
r4  out4 gnd resistor
v1  a0 gnd pulse(0 10 10u 10u 10u 2m 4m)
v2  a1 gnd pulse(0 10 10u 10u 10u 4m 8m)
v3  b0 gnd pulse(0 10 10u 10u 10u 8m 16m)
v4  b1 gnd pulse(0 10 10u 10u 10u 16m 32m)
* u5  a0 plot_v1
* u4  a1 plot_v1
* u2  b0 plot_v1
* u1  b1 plot_v1
* u8  out1 plot_v1
* u9  out2 plot_v1
* u10  out3 plot_v1
* u11  out4 plot_v1
a1 [net-_u3-pad1_ net-_u3-pad2_ ] [net-_u3-pad3_ net-_u3-pad4_ ] [net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] u3
a2 [a0 a1 b0 b1 ] [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ ] u6
a3 [net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ ] [out1 out2 out3 out4 ] u7
* Schematic Name:                             multiply, NgSpice Name: multiply
.model u3 multiply(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-03 50e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a0)
plot v(a1)
plot v(b0)
plot v(b1)
plot v(out1)
plot v(out2)
plot v(out3)
plot v(out4)
.endc
.end
