* c:\users\saisr\esim-workspace\jc\jc.cir

* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ johnson_counter
* u4  in1 in2 net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
* u5  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ out1 out2 out3 out4 dac_bridge_4
r1  out1 gnd resistor
r2  out2 gnd resistor
r3  out3 gnd resistor
r4  out4 gnd resistor
v1  in1 gnd pulse(0 10 10u 10u 10u 10m 20m)
v2  in2 gnd pulse(0 10 10u 10u 10u 1m 1)
* u3  in1 plot_v1
* u1  in2 plot_v1
* u6  out1 plot_v1
* u7  out2 plot_v1
* u8  out3 plot_v1
* u9  out4 plot_v1
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u2
a2 [in1 in2 ] [net-_u2-pad1_ net-_u2-pad2_ ] u4
a3 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] [out1 out2 out3 out4 ] u5
* Schematic Name:                             johnson_counter, NgSpice Name: johnson_counter
.model u2 johnson_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-03 1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out1)
plot v(out2)
plot v(out3)
plot v(out4)
.endc
.end
